US07932262B2
Step 1-Preparation of 2-Amino-3-bromo-5-(trifluoromethyl)benzaldehyde
2,6-Dibromo-4-(trifluoromethyl)aniline (3.19 g, 10.0 mmol, 1.00 eq) was dissolved in THF (50 mL) and cooled to −78° C. A 2.5 M solution of n-butyllithium in hexanes (8.40 mL, 21.0 mmol, 2.10 eq) was added dropwise over 15 min. The mixture was stirred at −78° C. for 1 h. A solution of DMF (1.03 mL, 14.0 mmol, 1.40 eq) in THF (5 mL) was added, and the mixture was stirred an additional 1 h at −78° C. The reaction was allowed to come to −15° C. over 30 min and then quenched with brine. The mixture was diluted with ethyl acetate, washed sequentially with water and brine, dried over sodium sulfate, filtered, and concentrated to give 1.74 g of the desired product as a pale yellow, crystalline solid. ES/MS m/z 268, 270 (MH+).

reactant | 2,6-Dibromo-4-(trifluoromethyl)aniline | 10.0 mmol, 3.19 g, 1.00 eq | BrC1=C(N)C(=CC(=C1)C(F)(F)F)Br | C7H4Br2F3N
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 14.0 mmol, 1.03 mL, 1.40 eq | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Amino-3-bromo-5-(trifluoromethyl)benzaldehyde | 1.74 g | NC1=C(C=O)C=C(C=C1Br)C(F)(F)F | C8H5BrF3NO
